US04200641
A mixture of 60.5 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 31.68 parts of 1-(phenylmethyl)piperazine, 21.2 parts of sodium carbonate, 0.1 parts of potassium iodide and 400 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated, yielding 1,3-dihydro-1-(1-methylethenyl)-3-{3-[4-(phenylmethyl)-1-piperazinyl]propyl}-2H-benzimidazol-2-one as a residue.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
reactant | 1-(phenylmethyl)piperazine | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1,3-dihydro-1-(1-methylethenyl)-3-{3-[4-(phenylmethyl)-1-piperazinyl]propyl}-2H-benzimidazol-2-one | CC(=C)N1C(N(C2=C1C=CC=C2)CCCN2CCN(CC2)CC2=CC=CC=C2)=O | C24H30N4O
